US08404723B2
1-(4-Methyl-1,3-thiazol-2-yl)butan-2-one
3.00 g (26.5 mmol) of 2,4-dimethylthiazole are dissolved in 30 ml of THF and, at −78° C., 11.6 ml (29.2 mmol) of n-butyllithium (2.5 M solution in hexane) are added dropwise. After stirring at −78° C. for 2 hours, 4.60 g (45.1 mmol) of ethyl propionate are added as solution in 15 ml of abs. THF. The mixture is stirred at −78° C. for 1 h and then warmed to room temperature. It is then hydrolyzed with sodium bicarbonate solution, and the mixture is extracted three times with diethyl ether. The combined organic phases are dried with magnesium sulfate, and the solvent is removed in a rotary evaporator. 3.5 g (39% of theory) of the title compound are obtained in 50% purity (GC-MS) and are employed without further purification.

reactant | 2,4-dimethylthiazole | 26.5 mmol, 3.00 g | CC=1SC=C(N1)C | C5H7NS
reactant | n-butyllithium | 29.2 mmol, 2.5 M, 11.6 ml | C(CCC)[Li]
reactant | ethyl propionate | 45.1 mmol, 4.60 g | C(CC)(=O)OCC | C5H10O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(4-Methyl-1,3-thiazol-2-yl)butan-2-one | CC=1N=C(SC1)CC(CC)=O | C8H11NOS
